US08633175B2
4′-(2-aminoethyl)-3-biphenylcarboxamide
The title compound was prepared from 3-(aminocarbonyl)-phenyl boronic acid and 4-bromophenethylamine. according to the procedure described for intermediate I-VII-1 with the exceptions that 4:1 PhMe/EtOH was sued as organic solvent (instead of DME) and the chromatographic purification step was omitted. LC/MS (method E) 0.53 min; m/z 241 (M+H).

reactant | 3-(aminocarbonyl)-phenyl boronic acid | NC(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | 4-bromophenethylamine | BrC1=CC=C(CCN)C=C1 | C8H10BrN
reactant | PhMe EtOH | C1(=CC=CC=C1)C.CCO
solvent | DME | COCCOC | C4H10O2
product | 4′-(2-aminoethyl)-3-biphenylcarboxamide | NCCC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)N | C15H16N2O
